US04665174
Into the same flask as used in Example 1, 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g), aniline (30 g), triethylamine (0.8 g) and toluene (45 g) were charged, and the mixture was stirred under a nitrogen stream at a temperature of 40° to 70° C. for 2 hours. After completion of the reaction, the mixture was treated and purified in the same manner as in Example 1 to obtain 2-allyl-3-methyl-4-anilino-2-cyclopentenone (22 g). Yield, 97%. nD20 1.5880.

reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | aniline | 30 g | NC1=CC=CC=C1 | C6H7N
catalyst | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 45 g | C1(=CC=CC=C1)C | C7H8
product | 2-allyl-3-methyl-4-anilino-2-cyclopentenone | 22 g | C(C=C)C=1C(CC(C1C)NC1=CC=CC=C1)=O | C15H17NO
